US08084448B2
B. 2-Benzyloxy-6-(4-tert-butoxycarbonylaminobutoxy)-benzoic Acid Methyl Ester
To a solution of 2-(4-tert-butoxycarbonylaminobutoxy)-6-hydroxybenzoic acid methyl ester (1.5 g, 4.4 mmol) in DMF (20 mL) is added benzyl bromide (0.56 mL, 4.6 mmol) and K2CO3 (1.8 g, 13.0 mmol). The suspension is stirred at RT for 3 h then is poured into water and extracted with EtOAc. The organic layer is washed with water and brine, and dried over sodium sulfate. The solvent is removed under reduced pressure and the residue purified by flash chromatography eluting with hexanes/EtOAc (5:1 to 1:1) to afford the title compound as a colorless liquid: 1H NMR (CDCl3) δ 7.38-7.19 (m, 6H), 6.57-6.51 (dd, J=8.34, 12.63 Hz, 2H), 5.10 (s, 1H), 4.60 (s, 1H), 4.00 (t, J=6.06 Hz, 2H), 3.88 (s, 3H), 3.18-3.13 (m, 2H), 1.81-1.75 (m, 2H), 1.66-1.59 (m, 2H), 1.43 (s, 9H).

reactant | 2-(4-tert-butoxycarbonylaminobutoxy)-6-hydroxybenzoic acid methyl ester | 4.4 mmol, 1.5 g | COC(C1=C(C=CC=C1O)OCCCCNC(=O)OC(C)(C)C)=O | C17H25NO6
reactant | benzyl bromide | 4.6 mmol, 0.56 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | K2CO3 | 13.0 mmol, 1.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-Benzyloxy-6-(4-tert-butoxycarbonylaminobutoxy)-benzoic Acid Methyl Ester | COC(C1=C(C=CC=C1OCCCCNC(=O)OC(C)(C)C)OCC1=CC=CC=C1)=O | C24H31NO6
